US07595370B2
5 g of hexamethylcyclotrisiloxane, 3.5 g of trimethylsilyl methacrylate, 0.016 g of trifluoromethane sulfonic acid were stirred for 24 h at room temperature. 0.5 ml of triethylamine was then added, and the salts were filtered to furnish nonamethyl-1-methacryloyloxy-tetrasiloxane.

reactant | hexamethylcyclotrisiloxane | 5 g | C[Si]1(O[Si](O[Si](O1)(C)C)(C)C)C | C6H18O3Si3
reactant | trimethylsilyl methacrylate | 3.5 g | C(C(=C)C)(=O)O[Si](C)(C)C | C7H14O2Si
reactant | trifluoromethane sulfonic acid | 0.016 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | nonamethyl-1-methacryloyloxy-tetrasiloxane | C[Si](O[Si](O[Si](O[Si](OC(C(=C)C)=O)(C)C)(C)C)(C)C)(C)C | C13H32O5Si4
